Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
transient episodes of facial droop and speech difficulty
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of mild cognitive impairment, ___ body disease
(followed by cognitive neurology at ___, depression, prostate
cancer who presented as a transfer from ___ after transient
episodes of facial droop and speech difficulty.

Patient was last known well around 13:30 on day of presentation. 

Around 3:30 ___ and his daughter noticed that he was sitting by
the pool under the hot sun.  She walked over to him, and noticed
that the left side of his face was not moving, and the right 
side
of his face appears to be 'contorted upwards'.  He was also
having slurred speech, which she could not understand.  However,
he appeared to understand what she was saying.  This episode
lasted about 5 minutes.  

He was then brought to ___.  Initial NIHSS documented 0. 
At 4:25 ___, patient was noted to have another episode of facial
droop and difficulty speaking.  A code stroke was called with
NIHSS 6.  Again, the episode resolved after a few minutes.  In
the ___ at ___, he had about 5 episodes of slurred speech, of
which 2 episodes included facial droop.  Per daughter, the
maximum length of each episode was 10 minutes, after which he
fully returned to his baseline.  Daughter states that there was
never any arm or leg shaking during any of these episodes. 
Patient was fully aware during all of these episodes.  FSBG 134.
CT and CTA were reassuring.  The toxic, metabolic, infectious
work-up were unremarkable.  Telemetry neurology was consulted 
and
recommended no TPA at this time.  He was given a full dose of
aspirin and transferred to ___ for neurology evaluation.
 
ROS: 
Patient denies headache, visual changes, chest pain, shortness 
of
breath, abdominal pain, nausea, vomiting, diarrhea.
 
Past Medical History:
mild cognitive impairment
___ body disease (followed by cognitive neurology at ___
depression
prostate cancer

 
Social History:
___
Family History:
Mother had ___ disease

 
Physical Exam:
Physical Exam on Admission: 
PHYSICAL EXAMINATION: 
Vitals: 98.3 65 134/69 16 95% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to self, ___, hospital. 
Attentive.  Language is fluent with intact comprehension.  Able
to name all pictures on the ___ stroke card with the exception 
of
cactus.  Able to describe cookie picture.  Able to name pen,
paper, but not knuckles or thumb.  Able to read ___ stroke card
without difficulty.  No dysarthria.  Able to follow midline and
appendicular commands.  Able to register 3 objects, but not able
to recall any of them after 10 minutes.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift.  
With
arms outstretched, there was very fine tremor of the right hand. 

 [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5    

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration throughout. No extinction to DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     -
R   2     2      2      2     -
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: Deferred

Exam at Discharge:
Physical Exam in unchanged at time of discharge with only 
changes significant  for improvement in short tern recall.   
 
Pertinent Results:
___ 06:40AM BLOOD WBC-7.2 RBC-4.60 Hgb-14.5 Hct-44.0 MCV-96 
MCH-31.5 MCHC-33.0 RDW-13.4 RDWSD-47.3* Plt ___
___ 09:05PM BLOOD Neuts-41.3 ___ Monos-12.6 Eos-5.3 
Baso-0.7 Im ___ AbsNeut-2.86 AbsLymp-2.77 AbsMono-0.87* 
AbsEos-0.37 AbsBaso-0.05
___ 09:05PM BLOOD ___ PTT-23.7* ___
___ 06:40AM BLOOD Glucose-102* UreaN-19 Creat-1.1 Na-145 
K-4.5 Cl-108 HCO3-23 AnGap-14
___ 06:40AM BLOOD cTropnT-<0.01
___ 06:40AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.2 Cholest-140
___ 06:40AM BLOOD %HbA1c-6.0 eAG-126
___ 06:40AM BLOOD Triglyc-48 HDL-64 CHOL/HD-2.2 LDLcalc-66
___ 06:40AM BLOOD TSH-3.3

Reports:
ECG and Telemetry Sinus Rhythm with PVC.

MRI head without contrast.  FINDINGS: New focus of restricted 
diffusion in the right frontal cortex without corresponding 
T2/FLAIR signal abnormality, representing an acute stroke.   
Linear chronic ischemic stroke involving the right cerebellum is 
new compared
to prior MR from ___ however is visualized on yesterday's head 
CT scan. 
Ventricle and sulci are prominent, consistent with involutional 
changes.
IMPRESSION: 1. Tiny acute stroke involving the right frontal 
cortex.
2. Right cerebellar chronic infarct, new compared to ___.
3. Brain atrophy.

TTE: IMPRESSION: Normal biventricular cavity sizes and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified.

 
Brief Hospital Course:
Mr. ___ is an ___ man with a history of mild 
cognitive impairment, ___ body disease, depression, and 
prostate cancer who is admitted to the Neurology stroke service 
with transient episodes of facial droop and speech difficulty 
secondary to an acute ischemic stroke. From the history it is 
unclear if these speech difficulties were dysarthria, or 
aphasia. Workup included an MRI which showed: 1) Tiny acute 
stroke involving the right frontal cortex; 2) Right cerebellar 
chronic infarct, new compared to ___. The acute stroke location 
is consistent with his current presentation, and appears embolic 
in nature. The presence of a second stroke in the posterior 
circulation raises concern for underlying causes such as atrial 
fibrillation. Telemetry and echocardiogram did not show evidence 
of afib, although Mr. ___ was sent home with a monitor. 
Echocardiogram was otherwise normal. In addition, coagulation 
studies, lipid panel, diabetes screen, and thyroid function were 
all normal. Overall, Mr. ___ modifiable risk factors 
for stroke are low, as he does not smoke, is not obese, and does 
not have diabetes or high cholesterol. His exam prior to 
discharge was unremarkable as he was no longer experiencing 
facial droop or had any difficulty speaking. At no point did he 
experience any weakness in his arms or legs. He was evaluated by 
physical therapy who recommended discharge home. 

His stroke risk factors include the following:
1) Age
___ Multiple strokes in both anterior and posterior circulation

----------
Transitional issues:
[]New medications: Aspirin 81mg daily, Atorvastatin 40mg nightly
[]Home telemetry for 2 weeks to monitor for atrial fibrillation
[]Follow-up with the neurology stroke clinic
[]Continue to follow-up with Dr. ___ in the cognitive neurology 
unit

============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 66) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL ___ 70) (x) Yes - () No 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. 
9. Discharged on statin therapy? (x) Yes - () No
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QHS 
2. Tamsulosin 0.4 mg PO QHS 
3. buPROPion HCl 200 mg oral DAILY 
4. buPROPion HCl 100 mg oral NOON 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  buPROPion HCl 200 mg oral DAILY  
4.  buPROPion HCl 100 mg oral NOON  
5.  Donepezil 10 mg PO QHS  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent, easily forgetful.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of recurrent transient 
episodes of facial droop and difficulty speaking that 
self-resolved resulting from a small acute, ischemic stroke. A 
stroke is a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms. 

In addition, we saw evidence on MRI that you previously 
experienced another stroke sometime between ___ and today. As 
this represents two independent events, we are concerned about 
what might have caused these strokes. Stroke can have many 
different causes, so we assessed you for medical conditions that 
might raise your risk of having stroke. One potential cause for 
multiple strokes is an abnormal heart rhythm called atrial 
fibrillation. Although we did not observe any abnormal rhythms 
during your admission, we are sending you home with a monitor to 
check over a longer period of time. 

In order to prevent future strokes, please continue your healthy 
lifestyle choices such as abstaining from smoking and heavy 
alcohol use, maintaining a healthy weight, exercising, and 
eating a heart healthy diet. Your risk factors are:

Age
Previous stroke

We are changing your medications as follows:
Added: Aspirin 81 mg once per day
Added: Atorvastatin 40 mg once per evening

Please take your other medications as prescribed.
Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,

Your ___ Neurology Team

 
Followup Instructions:
___